US05488055
A mixture of 1-ethyl-6-(2,3-epoxypropoxy)-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine (0.53 g) and formic acid (10 ml) were stirred at room temperature overnight. The excess formic acid was removed in vacuo and then methanol (75 ml) and triethylamine (10 ml) were added and the mixture was stirred for four hours. The reaction mixture was evaporated, ether was added and the product which crystallized was recrystallized from CH2Cl2 /Et2O and then purified by column chromatography on silca eluting with CH2Cl2 /THF (1/1) to afford 1-ethyl-6-(2,3-dihydroxypropoxy)-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, m.p. 197°-199° C.

reactant | 1-ethyl-6-(2,3-epoxypropoxy)-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 0.53 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)OCC2CO2 | C22H28N4O2
reactant | formic acid | 10 ml | C(=O)O | CH2O2
product | 1-ethyl-6-(2,3-dihydroxypropoxy)-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)OCC(CO)O | C22H30N4O3
